US08791123B2
Step D: Preparation of (R)-ethyl 5-(2-(3-fluoro-5-(2-morpholinoethoxy) phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate
(R)-ethyl 5-(2-(3-fluoro-5-hydroxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate (167 mg, 0.451 mmol), 4-(2-chloroethyl)morpholine hydrochloride (168 mg, 0.902 mmol), and K2CO3 (312 mg, 2.25 mmol) were suspended in DMF (5 mL) and stirred at ambient temperature for 15 hours. The crude reaction mixture was purified by reverse phase HPLC (0-60% acetonitrile/water) to provide the title compound (218 mg, 100% yield). MS (apci) m/z=484.1 (M+H).

reactant | (R)-ethyl 5-(2-(3-fluoro-5-hydroxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 0.451 mmol, 167 mg | FC=1C=C(C=C(C1)O)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)OCC | C19H19FN4O3
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 0.902 mmol, 168 mg | Cl.ClCCN1CCOCC1
reactant | K2CO3 | 2.25 mmol, 312 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (R)-ethyl 5-(2-(3-fluoro-5-(2-morpholinoethoxy) phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 218 mg, 100% yield | FC=1C=C(C=C(C1)OCCN1CCOCC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)OCC | C25H30FN5O4
